US05705499
a) 2-Chloro-5,11-dihydro-11-ethyl-8-[trans-2-(4-pyridyl)ethen-1-yl]-5-methyl-6H -dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
2-Chloro-5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (prepared by procedures analogous to those described in Example 1a-g) (0.5 g, 1.2 mmol) was coupled with 4-vinylpyridine in the presence of bis(triphenylphosphine)palladium(II) chloride and triethylamine as described in example 1h to give 0.28 g of the title compound as brown crystals, m.p. 150°-152° C.

reactant | 2-Chloro-5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)I)=O)C | C14H12ClIN4O
reactant | 4-vinylpyridine | C(=C)C1=CC=NC=C1 | C7H7N
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-5,11-dihydro-11-ethyl-8-[trans-2-(4-pyridyl)ethen-1-yl]-5-methyl-6H -dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.28 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)\C=C\C3=CC=NC=C3)=O)C | C21H18ClN5O
